US06271237B1
Methyl 1-[2-(bromomethyl)phenyl]pyrazole-5-carboxylate:
To a solution of methyl 1-[2-methylphenyl]pyrazole-5-carboxylate (1.00 g, 4.62 mmol) in 20 mL of carbon tetrachloride was added N-bromosuccinimide (0.823 g, 4.62 mmol) and AIBN (76 mg, 0.46 mmol). This mixture was stirred at 80° C. for 18 h. The volatiles were removed and the residue was taken up in ether, filtered through a pad of silica gel and concentrated to afford 1.3 g (95%) of the title compound which was used without further purification. LRMS (ES+): 295.0/297.0 (M+H)+.

reactant | methyl 1-[2-methylphenyl]pyrazole-5-carboxylate | 4.62 mmol, 1.00 g | CC1=C(C=CC=C1)N1N=CC=C1C(=O)OC | C12H12N2O2
reactant | N-bromosuccinimide | 4.62 mmol, 0.823 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | AIBN | 0.46 mmol, 76 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | carbon tetrachloride | 20 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | Methyl 1-[2-(bromomethyl)phenyl]pyrazole-5-carboxylate | 1.3 g, 95% | BrCC1=C(C=CC=C1)N1N=CC=C1C(=O)OC | C12H11BrN2O2
